US05773467
2-Acetyl-7-methoxy-N-[3-pyridylmethyl]-4-benzofuransulphonamide
Triethylamine (0.43 ml) was added to a solution of 2-acetyl-7-methoxy-4-benzofuransulphonyl chloride (600 mg) and 3-(aminomethyl)pyridine (0.25 ml) in dichloromethane at room temperature. The resultant mixture was stirred for 20 hours and then diluted with dichloromethane (20 ml). The solution was washed with water (20 ml) and brine (20 ml) and dried (MgSO4). Concentration in vacuo provided a dark oil which was applied to a silica column and eluted with 2% methanol in dichloromethane. The title compound was obtained as a pale yellow solid (161 mg). Mp 168°-170° C.

reactant | Triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | 2-acetyl-7-methoxy-4-benzofuransulphonyl chloride | 600 mg | C(C)(=O)C=1OC=2C(C1)=C(C=CC2OC)S(=O)(=O)Cl | C11H9ClO5S
reactant | 3-(aminomethyl)pyridine | 0.25 ml | NCC=1C=NC=CC1 | C6H8N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Acetyl-7-methoxy-N-[3-pyridylmethyl]-4-benzofuransulphonamide | C(C)(=O)C=1OC=2C(C1)=C(C=CC2OC)S(=O)(=O)NCC=2C=NC=CC2 | C17H16N2O5S
